Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Trauma:  confusion, facial abrasions
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS
 
This patient is a ___ year old male who complains was found
confused, walking with through a building in, with obvious
facial injuries. Apparently he had been seeing a short time
before riding his bicycle in a parking lot. She has no
recollection of the event, he was found to be walking with
injuries after the event. He had repetitive speech. There
were no witnesses to the event, but no report of car
accidents or car injuries. He denies a history of seizure
activity, there is no known incontinence.
 

 
Past Medical History:
none
 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION:  upon admission ___
 
Temp: 98.1 HR: 64 BP: 106/80 Resp: 18 O(2)Sat: 99 Normal
 
Constitutional: Boarded and collared, no acute distress
HEENT: Abrasions to the face, no step-offs
  Right ear: There is a small amount of dried blood in the
external auditory canal. There is also a small black spot on
the TM, but this does not appear to be hemotympanum.
Chest: Clear to auscultation, abrasion to the chest wall,
but no chest pain to AP compression, no crepitus
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: No cyanosis, clubbing or edema, full range of
motion of upper and lower extremities without pain, no
deformity
Skin: Numerous abrasions
Neuro: Speech fluent, extraocular movements intact, pupils
equal round and reactive to light, tongue midline, symmetric
smile, 5 out of 5 biceps, triceps, grasp, iliopsoas, quads,
hamstrings, dorsiflexion, plantar flexion.
Psych: Amnesia regarding the event, repetitive questioning
___: No petechiae

Physical examination: upon ___

Vital signs: 97.7, 105/65, 55, rr18, oxygen sat 100% room air  

General:  Sitting comfortalby in chair, facial abrasions 
CV:  Ns1, s2, -s3, -s4
LUNGS:  Clear
ABDOMEN:  soft, non-tender
EXT:  no pedal edema bil., muscle st. upper ext. +/5+5 bil., 
lower ext. +5//+5
NEURO:  alert and oriented x 3, speech clear, no tremors, full 
EOM's, ___, sluggish 4mm bil.

 
Pertinent Results:
___ 05:14PM BLOOD WBC-6.5 RBC-4.58* Hgb-14.3 Hct-41.4 
MCV-90 MCH-31.2 MCHC-34.6 RDW-12.9 Plt ___
___ 05:14PM BLOOD Neuts-59.6 ___ Monos-4.7 Eos-2.7 
Baso-0.9
___ 05:14PM BLOOD Glucose-99 UreaN-16 Creat-1.0 Na-134 
K-3.9 Cl-102 HCO3-21* AnGap-15
___ 05:14PM BLOOD Calcium-9.0 Phos-3.5 Mg-2.2

___:  chest and pelvis:

FINDINGS:  Portable supine chest and pelvis radiographs were 
provided.  The lungs are clear, though the lateral most aspect 
of the left low chest is excluded.  Cardiomediastinal silhouette 
appears normal.  Bony structures are intact.  Bony pelvic ring 
is intact with bilateral hips aligning normally. 

___:  cat scan of the head:

IMPRESSION:  No fracture.  No acute intracranial process.

___:  cat scan of the c-spine:

IMPRESSION:  No acute fracture or malalignment. 
  
   
  

 
Brief Hospital Course:
The patient was admitted to the acute care service after he was 
found wandering in a building with facial abrasions.  It was 
reported that he been riding his bicycle prior to being found.  
Upon admission, he was made NPO, given intravenous fluids, and 
underwent imaging of his head, neck, and pelvis.  No fractures 
were identified.  His vital signs and neurological status were 
closely monitored. 

On HD #2, he was started on a regular diet.  He has been alert 
and oriented but still has poor recollection of events which 
caused his hospitalization.  His hematocrit and electrolytes are 
within normal range.  Because of his loss of consciousness, he 
was evaluated by Occupational Therapy and recommendations made 
for him to follow up with Cognitive Neurology.  He requested to 
make his own appointment.

He is preparing for discharge home with instructions to 
follow-up with his primary care provider. He has been instructed 
to schedule an appointment with Dr. ___ 
neurologist.
 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
concussion
syncope
facial abrasions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were found with facial abrasions, confused, and wandering in 
a building.  It was reported that you had been riding your 
bicycle. You sustained abrasions to your face and left shoulder. 
 You had cat scan done of your head, neck and pelvis and all 
were reported as normal.  You are preparing for discharge with 
the following instructions:

 Please call your doctor or return to the emergency room if you 
have any of the following:

 * headache, double vision, difficulty speaking, weakness one 
side your body
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered. 

You should follow-up with your primary care provider and undergo 
further testing to determine the cause of your fainting episode. 
  
 
Followup Instructions:
___